US07935815B2
Synthesis of tert-butyl N′-[5-chloro-2-(4-fluorophenyl)-5-hydroxy-3-methylpentanoyl]hydrazinecarboxylate
Lithium chloride (283 mg) was added to a solution of 5-(N′-tert-butoxycarbonylhydrazino)-4-(4-fluorophenyl)-3-methyl-5-oxo-1-pentyl toluene-4-sulfonate (330 mg) in DMF (5 mL). The reaction solution was stirred at 80° C. for three hours and then left to cool to room temperature. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 170 mg of the title compound. The property value of the compound is as follows.

reactant | Lithium chloride | 283 mg | [Cl-].[Li+]
reactant | 5-(N′-tert-butoxycarbonylhydrazino)-4-(4-fluorophenyl)-3-methyl-5-oxo-1-pentyl toluene-4-sulfonate | 330 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCC(C(C(=O)NNC(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C)C | C24H31FN2O6S
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl N′-[5-chloro-2-(4-fluorophenyl)-5-hydroxy-3-methylpentanoyl]hydrazinecarboxylate | 170 mg | ClC(CC(C(C(=O)NNC(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C)O | C17H24ClFN2O4
